US08076491B2
1-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)-3-phenethylurea
Prepared as in example 9-6b from 1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-amine and phenethyl isocyanate. Yield: 29%. 1H NMR (DMSO-d6, 400 MHz): δ2.10 (s, 3H), 2.36 (s, 3H), 2.69 (t, J=7.2 Hz, 2H), 3.25 (q, J=7.4 Hz, 2H), 5.02 (s, 2H), 6.00 (t, J=5.8 Hz, 1H), 7.16-7.30 (m, 6H), 7.68 (s, 1H), 8.13 (s, 1H). LC/MS; [M+H] calculated for C18H21N5O2; expected 340.17; found 340.20.

reactant | 1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-amine | CC1=NOC(=C1CN1N=CC(=C1)N)C | C9H12N4O
reactant | phenethyl isocyanate | C(CC1=CC=CC=C1)N=C=O | C9H9NO
product | 1-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)-3-phenethylurea | Yield: 29% | CC1=NOC(=C1CN1N=CC(=C1)NC(=O)NCCC1=CC=CC=C1)C | C18H21N5O2
